US05240925
d. Preparation of 2-(4-Chlorophenyl)-5-(2,6-dimethyl-4-morpholinyl)valeronitrile
This intermediate (2.0 g.) was prepared using the procedure described in Example 2a except using 2.3 g. (11 moles) of 4-(3-chloropropyl)-2,6-dimethylmorpholine, 0.48 g. of sodium hydride, and 1.69 g. (11 mmoles) of 4-chlorobenzyl cyanide in 15 ml. of a 2 to 1 mixture of toluene and DMF and was isolated as a pale yellow oil.

reactant | 4-(3-chloropropyl)-2,6-dimethylmorpholine | 11 moles | ClCCCN1CC(OC(C1)C)C | C9H18ClNO
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chlorobenzyl cyanide | 11 mmoles | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(4-Chlorophenyl)-5-(2,6-dimethyl-4-morpholinyl)valeronitrile | ClC1=CC=C(C=C1)C(C#N)CCCN1CC(OC(C1)C)C | C17H23ClN2O
